US05126460
(±)-trans-4-Amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol
Sodium hydride (80% dispersion in oil, 13.7 g) was added in portions over 1 h to a stirred solution of (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H-benzopyran-4-ol (124.3 g) in tetrahydrofuran (250 ml) kept under a dry nitrogen atmosphere. The mixture was stirred for an additional 0.5 h after which a solution of the 3,4-epoxide resulted. Ethanol (620 ml) followed by 0.880 ammonium hydroxide (375 ml) were added, and the resulting mixture stirred at 60°-65° C. for 12 h before cooling to room temperature. The organic solvents were evaporated off and the aqueous residue acidified with 5N hydrochloric acid (125 ml). The mixture was then washed well with dichloromethane (total used=1.0 L) before basifying with 40% aq. sodium hydroxide (80ml). It was then re-extracted with dichloromethane (4×250 ml) and the combined extracts washed once with brine and then dried (Na2SO4). Evaporation afforded the product as a gum which crystallised. This was broken up and triturated with a mixture of isopropyl ether and dichloromethane before filtering off and washing with further isopropyl ether. The product was dried under suction and finally under vacuum.

reactant | Sodium hydride | 13.7 g | [H-].[Na+]
reactant | (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H-benzopyran-4-ol | 124.3 g | Br[C@@H]1C(OC2=C([C@H]1O)C=C(C=C2)C#N)(C)C | C12H12BrNO2
reactant | Ethanol | 620 ml | C(C)O | C2H6O
reactant | ammonium hydroxide | 375 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (±)-trans-4-Amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
